US05616610
g) Methyl (R)-3-(N-tert-Butyl-N-n-propylamino)-8-fluoro-3,4-dihydro-2H-1-benzopyran-5-carboxylate
(R)-3-(N-tert-Butyl-N-n-propylamino)-8-fluoro-5-trifluoromethylsulfonyloxy-3,4-dihydro-2H-1-benzopyran (1.4 g, 3.3 mmol) and triethylamine (1.0 mL, 7.4 mmol) were dissolved in a solution of DMF/MeOH (6:2; 30 mL) and then degassed followed by the inlet of carbon monoxide (4×). With a slight positive pressure of carbon monoxide, palladium(II)-acetate (0.030 g) and 1,3-bis(diphenylphosphino)propane (0.060 g) were added and the reaction mixture was degassed and subjected to carbon monoxide once again. The reaction was heated to 70° C. (oil-bath temperature) under carbon monoxide atmosphere with vigorous stirring for 12 h. GC indicating an incomplete reaction (68% product vs. 21% starting material), the solution was cooled and then filtered through Celite. More palladium(II)-acetate (0.030 g) and 1,3-bis(diphenylphosphino)propane (0.060 g) were added and the reaction was resumed as described above. After another 3 h GC indicated a slight improvement of the ratio (77% vs. 12%) and the reaction was allowed to cool. The following day the solvent was removed in vacuo. The remaining red-brown oil was taken into saturated aqueous NaHCO3 and then extracted with EtOAc (3×50 mL). The combined organic phases were washed with brine, dried (MgSO4), filtered and concentrated in vacuo to give the crude ester. Flash chromatography on silica [eluent: EtOAc (15 and 30%) in hexane] gave 0.178 g of starting material and 0.842 g (89% yield based on recovered starting material) of the title compound as a clear oil. [α]21D =-121.1° (C=0.9; CHCl3). GC-MS (70 eV) M=323 (14%).

reactant | (R)-3-(N-tert-Butyl-N-n-propylamino)-8-fluoro-5-trifluoromethylsulfonyloxy-3,4-dihydro-2H-1-benzopyran | 3.3 mmol, 1.4 g | C(C)(C)(C)N(CCC)[C@H]1COC2=C(C1)C(=CC=C2F)OS(=O)(=O)C(F)(F)F | C17H23F4NO4S
reactant | triethylamine | 7.4 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | DMF MeOH | 30 mL | CN(C)C=O.CO
product | Methyl (R)-3-(N-tert-Butyl-N-n-propylamino)-8-fluoro-3,4-dihydro-2H-1-benzopyran-5-carboxylate | 89% yield | C(C)(C)(C)N(CCC)[C@H]1COC=2C(C1)=C(C=CC2F)C(=O)OC | C18H26FNO3
